US04394515
2-(3-Bromophenylthio)benzyl Cyanide
12.4 G. sodium cyanide (0.25 mole) is added to the solution of 58.6 g. 2-(3-bromophenylthio)benzyl bromide (0.164 mole) in 200 cc. dimethylformamide (DMF). The reaction is slightly exothermic. The resulting solution is allowed to stir for an hour without cooling, then is diluted with a large volume of water and extracted with ether three times. Ether extracts are washed several times with water, dried over sodium sulfate and the ether evaporated off. The crude yield of 2-(3-bromophenylthio)benzyl cyanide is 49.6 g.; the product is an oil which is hydrolyzed as such.

reactant | sodium cyanide | 0.25 mole | [C-]#N.[Na+]
reactant | 2-(3-bromophenylthio)benzyl bromide | 0.164 mole | BrC=1C=C(C=CC1)SC1=C(CBr)C=CC=C1 | C13H10Br2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(3-Bromophenylthio)benzyl Cyanide | BrC=1C=C(C=CC1)SC1=C(CC#N)C=CC=C1 | C14H10BrNS
